US05935972
cis-2-Phenyl-3-[(5-pyrimidin-5-yl-benzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-piperidine-1-carboxylic acid tert-butyl ester (190 mg)
From cis-3-[(5-bromobenzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester (600 mg) and 5-tributylstannanyl-pyrimidine (458 mg)

reactant | cis-3-[(5-bromobenzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester | 600 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=2C=COC21)Br)C2=CC=CC=C2 | C30H37BrN2O5
reactant | 5-tributylstannanyl-pyrimidine | 458 mg | C(CCC)[Sn](C=1C=NC=NC1)(CCCC)CCCC
product | cis-2-Phenyl-3-[(5-pyrimidin-5-yl-benzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=2C=COC21)C=2C=NC=NC2)C2=CC=CC=C2 | C34H40N4O5
